US05488055
A mixture of 2-nitro-4-methoxybenzoic acid (21.9 g, 0.111 mol), 2N ammonium hydroxide (250 ml) and 5% palladium on strontium carbonate (2.5 g) was shaken under 45 psi of hydrogen pressure for 3-4 hours. The reaction mixture was filtered, and the filtrate was acidified with acetic acid. A solid formed which was collected by filtration, washed with water and dried to afford 16 g of 4-methoxyanthranilic acid, m.p. 194°-195° C.

reactant | 2-nitro-4-methoxybenzoic acid | 0.111 mol, 21.9 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)OC | C8H7NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on strontium carbonate | 2.5 g | [Pd] | Pd
solvent | ammonium hydroxide | 2N, 250 ml | [OH-].[NH4+]
product | 4-methoxyanthranilic acid | 16 g | COC=1C=C(C(C(=O)O)=CC1)N | C8H9NO3
